US08648066B2
(1R)-1-(6-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-yl)ethanamine.
Prepared according to the method of example 5 by using phenylmethyl{(1R)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate (reagent preparation 19) and {-4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.59 (s, 1H), 8.31 (s, 1H), 8.12 (s, 1H), 7.61 (s, 1H), 7.50 (d, 1H), 7.09 (d, 1H), 4.80 (m, 2H), 4.53 (m, 1H), 4.43 (m, 1H), 4.27 (m, 1H), 4.06 to 3.93 (m, 2H), 2.96 to 2.78 (m, 2H), 2.62 (m, 1H), 2.32 (m, 1H), 1.95 (m, 1H), 1.75 (m, 1H), 1.67 (d, 3H), 1.41 (m, 2H), 1.16 (m, 1H), 0.99 (t, 3H); MS (EI) for C27H31N7O: 470 (MH+).

reactant | phenylmethyl{(1R)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate | C1(=CC=CC=C1)COC(N(COCC[Si](C)(C)C)[C@H](C)C1=NC=2C(=NC=C(C2)Br)N1COCC[Si](C)(C)C)=O | C28H43BrN4O4Si2
reactant | {-4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | C(C)[C@H]1CCC=2C(=NC=NC2C1)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C19H24BN3O3
product | (1R)-1-(6-{4-[(7S)-7-ethyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-yl)ethanamine | C(C)[C@H]1CCC=2C(=NC=NC2C1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)[C@@H](C)N | C27H31N7O
